US07141596B2
Step 7. Synthesis of N-2-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]ethyl-4-phenoxybenzenesulfonamide
N-2-[4-(2-tert-Butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)phenyl]ethyl-4-phenoxybenzenesulfonamide (26.0 mg, 0.0481 mmol) was dissolved in tetrahydrofuran (0.25 mL) and 2 M lithium tetrahydroborate in tetrahydrofuran (18 μL) was added to the reaction via syringe. After 10 minutes, 2 M lithium tetrahydroborate in tetrahydrofuran (18 μL) was added. After an additional 10 minutes, the reaction was added to 1 mL of saturated aqueous ammonium chloride and stirred vigorously. The reaction was chromatographed on a 21.2 mm Luna C 18 column using a 10–90% acetonitrile in water gradient with 0.05% trifluoroacetic acid at 12.5 mL per minute over a 15 minute period. The major fraction was evaporated to give a light orange solid (19 mg, 75%). 1H NMR (500 MHz, CDCl3): δ 7.77 (d, J=8.8 Hz, 2H), 7.42 (t, J=8.3 Hz, 2H), 7.34 (d, J=8.3 Hz, 2H), 7.23 (t, J=7.8 Hz, 1H), 7.13 (d, J=7.8 Hz, 2H), 7.07 (d, J=7.9 Hz, 2H), 7.03 (d, J=8.8 Hz, 2H), 4.65 (m, 1H), 4.29 (m, 1H), 3.95 (m, 1H), 3.75 (m, 1H) 3.40 (m, 1H), 2.60 (m, 1H), 2.24 (m, 1H), 1.31 (s, 9H); LCMS found for C27H34N3O6S2 (M+NH4)+: m/z 560.2.

reactant | N-2-[4-(2-tert-Butyl-1,1-dioxido-3-oxo-2,3-dihydroisothiazol-5-yl)phenyl]ethyl-4-phenoxybenzenesulfonamide | 0.0481 mmol, 26.0 mg | C(C)(C)(C)N1S(C(=CC1=O)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)(=O)=O | C27H28N2O6S2
reactant | lithium tetrahydroborate | 2 M | [BH4-].[Li+]
reactant | lithium tetrahydroborate | 2 M | [BH4-].[Li+]
reactant | ammonium chloride | 1 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 0.25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 μL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 μL | O1CCCC1 | C4H8O
product | N-2-[4-(2-tert-butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)phenyl]ethyl-4-phenoxybenzenesulfonamide | 19 mg, 75% | C(C)(C)(C)N1S(C(CC1=O)C1=CC=C(C=C1)CCNS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)(=O)=O | C27H30N2O6S2
